US08049006B2
(6E)-6-(2-hydroxy-5-methylbenzylidene)-4-[(4-chlorophenyl)sulfonyl]-1,4-diazepan-2,5-dione (Compound 193)
To (6E)-6-[2-(methoxymethoxy)-5-methylbenzylidene]-4-[(4-chlorophenyl)sulfonyl]-1,4-diazepan-2,5-dione (95 mg), synthesized by using, instead of the starting material of Reference Example 117, that is, the compound S6, the compound S11 for the similar procedure as in Reference Example 117, Reference Example 122, and Example 1, in methylene chloride (0.48 ml) solution, trifluoroacetic acid (0.48 ml) was added and the mixture was stirred at room temperature for 45 minutes. Next, the reaction solution was concentrated, and the residue was recrystallized from hexane/ethyl acetate to obtain the title compound (87 mg).

reactant | (6E)-6-[2-(methoxymethoxy)-5-methylbenzylidene]-4-[(4-chlorophenyl)sulfonyl]-1,4-diazepan-2,5-dione | 95 mg | COCOC1=C(\C=C/2\C(N(CC(NC2)=O)S(=O)(=O)C2=CC=C(C=C2)Cl)=O)C=C(C=C1)C | C21H21ClN2O6S
reactant | trifluoroacetic acid | 0.48 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 0.48 ml | C(Cl)Cl | CH2Cl2
product | (6E)-6-(2-hydroxy-5-methylbenzylidene)-4-[(4-chlorophenyl)sulfonyl]-1,4-diazepan-2,5-dione | 87 mg | OC1=C(\C=C/2\C(N(CC(NC2)=O)S(=O)(=O)C2=CC=C(C=C2)Cl)=O)C=C(C=C1)C | C19H17ClN2O5S
